US08895313B2
4-(Imidazo[1,2-a]pyridin-2-yl)aniline
Prepared as described in the Nitro Reduction section using 2-(4-nitrophenyl)imidazo[1,2-a]pyridine (0.216 g, 0.90 mmol) and tin (II) chloride dihydrate (1.02 g, 4.52 mmol) in EtOH (25 ml) to give the title compound (0.144 g, 76%) as a pale yellow solid after work-up and flash chromatography (9:1 EtOAc/DCM).

reactant | 2-(4-nitrophenyl)imidazo[1,2-a]pyridine | 0.90 mmol, 0.216 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9N3O2
reactant | tin (II) chloride dihydrate | 4.52 mmol, 1.02 g | O.O.[Sn](Cl)Cl
reactant | EtOAc DCM | CCOC(=O)C.C(Cl)Cl
solvent | EtOH | 25 ml | CCO | C2H6O
product | 4-(Imidazo[1,2-a]pyridin-2-yl)aniline | 0.144 g, 76% | N=1C(=CN2C1C=CC=C2)C2=CC=C(N)C=C2 | C13H11N3
